US07585881B2
5-(3-chlorophenyl)-N-methyl-N-[(4-methyl-5-pyridin-4-yl-4H-1,2,4-triazol-3-yl)methyl]-1,2,4-oxadiazol-3-amine
NaH (7.0 mg, 0.35 mmol) was added to a solution of 5-(3-chlorophenyl)-N-methyl-1,2,4-oxadiazol-3-amine (60 mg, 0.29 mmol) in DMF (3 ml) at r.t. After 5 min 4-[5-(chloromethyl)-4-methyl-4H-1,2,4-triazol-3-yl]pyridine (60 mg, 0.29 mmol) dissolved in DMF (3 ml) was added. The reaction mixture was stirred for 4 h at r.t. Aq. sat. NH4Cl was added and the mixture was extracted with EA. The organic phase was washed with water and brine, dried and concentrated. Flash chromatography (DCM/MeOH 20:1) afforded 60 mg (54%) of the title compound. 1H NMR: 3.12 (s, 3 H) 3.80 (s, 3 H) 4.94 (s, 2 H) 7.46 (t, 1 H) 7.56 (m, 1 H) 7.58-7.63 (m, 2 H) 7.95 (m, 1 H) 8.06 (t, 1 H) 8.79 (m, 2 H).

reactant | NaH | 0.35 mmol, 7.0 mg | [H-].[Na+]
reactant | 5-(3-chlorophenyl)-N-methyl-1,2,4-oxadiazol-3-amine | 0.29 mmol, 60 mg | ClC=1C=C(C=CC1)C1=NC(=NO1)NC | C9H8ClN3O
reactant | 4-[5-(chloromethyl)-4-methyl-4H-1,2,4-triazol-3-yl]pyridine | 0.29 mmol, 60 mg | ClCC=1N(C(=NN1)C1=CC=NC=C1)C | C9H9ClN4
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 5-(3-chlorophenyl)-N-methyl-N-[(4-methyl-5-pyridin-4-yl-4H-1,2,4-triazol-3-yl)methyl]-1,2,4-oxadiazol-3-amine | 60 mg, 54% | ClC=1C=C(C=CC1)C1=NC(=NO1)N(CC1=NN=C(N1C)C1=CC=NC=C1)C | C18H16ClN7O
